US04994452
1-Benzyl-3-ethyl-2,3,9,10,11,12-hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine
To a solution of lithium aluminum hydride in tetrahydrofuran (1M, 11.75 ml) and dry tetrahydrofuran (30 ml) was added aluminum chloride (1.57 g) in portions. The mixture was stirred for five mins. 1-Benzyl-3-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.37 g) was added and stirring was continued for three hrs. The reaction mixture was quenched with ethyl acetate (200 ml), 10% sodium hydroxide solution (200 ml) was added, and the organic layer was separated, dried over anhydrous magnesium sulfate and concentrated. Trituration of the residue with pentane followed by recrystallization from methanol gave 2.86 g (68%) of product, mp 147.5°-149° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.57 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-Benzyl-3-ethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.37 g | C(C1=CC=CC=C1)N1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)CC)=O | C24H24N2O2
solvent | tetrahydrofuran | 1M, 11.75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-ethyl-2,3,9,10,11,12-hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine | 2.86 g, 68% | C(C1=CC=CC=C1)N1CC(OC2=C3C1=C1CCCCC1=NC3=CC=C2)CC | C24H26N2O
